US05424311
3(R,S)-Phenyl-3,4-dihydro-1,4,5-triazanaphthalen-2(1H)-one
In analogy to Example 2, but using only one mole equivalent of triethylamine, 4.45 g (27 mmol) of D/L-phenylglycine methyl ester were reacted with 3.51 g (22 mmol) of 2-chloro-3-nitropyridine. Working up and column chromatography (n-heptane/acetone/methyl t-butyl ether=5:1:1) resulted in 3.27 g (42%) of N-(3-nitro-2-pyridyl)-(D/L)-phenylglycine methyl ester of melting point 70° C.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | L-phenylglycine methyl ester | COC(=O)[C@H](C1=CC=CC=C1)N | C9H11NO2
reactant | 2-chloro-3-nitropyridine | 22 mmol, 3.51 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | n-heptane acetone methyl t-butyl ether | CCCCCCC.CC(=O)C.C(C)(C)(C)OC
product | 3(R,S)-Phenyl-3,4-dihydro-1,4,5-triazanaphthalen-2(1H)-one | C1(=CC=CC=C1)C1C(NC2=CC=CN=C2N1)=O | C13H11N3O
